US04578381
To a solution containing 467 g of chloroacetyl chloride in 400 ml of dichloromethan, 735 g of aluminium chloride was added by 1/3 each at a temperature below 30° C. with stirring condition. Next 200 g of carbostyril was added thereto at the same temperature under stirring condition. The reaction mixture was refluxed for 6 hours, then the reaction mixture was poured into a mixture of ice-concentrated hydrochloric acid and the crystals formed were collected by filtration. The crystals were washed with methanol, then with hot-methanol to obtain 153 g of 6-chloroacetylcarbostyril. The mother liquor was concentrated to dryness, and the residue obtained was purified by a silica gel column chromatography, then recrystallized from methanol to obtain 35.41 g of 8-chloroacetylcarbostyril in the form of light yellow crystals.

reactant | chloroacetyl chloride | 467 g | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 735 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | carbostyril | 200 g | N1C(=O)C=CC2=CC=CC=C12 | C9H7NO
solvent | dichloromethan | 400 ml | ClCCl | CH2Cl2
product | 6-chloroacetylcarbostyril | 153 g | ClCC(=O)C=1C=C2C=CC(NC2=CC1)=O | C11H8ClNO2
